* diff pairs a loaded vector with its case twin in the live plot
* doc/codex/issues/0037.  com_diff() cross references the two plots through a
* hash table (src/frontend/diff.c:233-270) whose comparator is nghash's
* strcmp (src/misc/hash.c:260), so the pairing was byte exact in all three
* modes.  Under the default mode the reader folds this deck's node Out to
* out while a rawfile written by any other tool keeps Out, so the two plots
* hold one vector between them and diff paired neither: its answer, the list
* of differing values, was empty, and an empty answer reads as 'the two plots
* agree'.
*
* This deck is here rather than in tests/regression/casedist because the row
* it asserts is the fold row, which is the default mode and needs no casemode
* flag; casedist forces -D casemode=distinguish on every deck it holds.
*
* The evidence is a presence, not an absence.  Each loaded Out differs from
* the live out by volts, so a correct pairing must print a value line and the
* broken pairing prints nothing between the sentinels.  The >>> unpaired
* reports go to cp_err, which tests/bin/check.sh does not capture, so stdout
* carries diff's answer alone.
*
* Two rawfiles rather than one: op1 spells the name the way this deck spells
* it before the reader folds it, op2 spells it in upper case, and under fold
* both are the same name as the live out.  op1 is the sharper row -- a file
* an older ngspice or another tool wrote from this same deck -- and op2 is
* the row that is also wrong under preserve.
*
* echo and load are on the reader's fold exemption list
* (src/frontend/inpcom.c:1954-1968), so the case inside the quoted rawfile
* lines survives to the file.  fopen is not on that list, which is
* doc/codex/issues/0038, so the file names are lower case regardless.
*
* The captures are cleaned by the CLEANFILES dpc_* pattern.
.OPTIONS noacct
V1 in 0 dc 1.5
R1 in Out 1k
R2 Out 0 1k
.control
echo "Title: hand built" > dpc_mixed.raw
echo "Date: Tue Aug 11 00:00:00  2026" >> dpc_mixed.raw
echo "Plotname: Operating Point" >> dpc_mixed.raw
echo "Flags: real" >> dpc_mixed.raw
echo "No. Variables: 1" >> dpc_mixed.raw
echo "No. Points: 1" >> dpc_mixed.raw
echo "Variables:" >> dpc_mixed.raw
echo " 0 Out voltage" >> dpc_mixed.raw
echo "Values:" >> dpc_mixed.raw
echo " 0 9.0" >> dpc_mixed.raw
echo "Title: hand built" > dpc_upper.raw
echo "Date: Tue Aug 11 00:00:00  2026" >> dpc_upper.raw
echo "Plotname: Operating Point" >> dpc_upper.raw
echo "Flags: real" >> dpc_upper.raw
echo "No. Variables: 1" >> dpc_upper.raw
echo "No. Points: 1" >> dpc_upper.raw
echo "Variables:" >> dpc_upper.raw
echo " 0 OUT voltage" >> dpc_upper.raw
echo "Values:" >> dpc_upper.raw
echo " 0 8.0" >> dpc_upper.raw
load dpc_mixed.raw >& dpc_load.txt
load dpc_upper.raw >& dpc_load.txt
op
echo DIFF-MIXED-BEGIN
diff op1 op3 all
echo DIFF-MIXED-END
echo DIFF-UPPER-BEGIN
diff op2 op3 all
echo DIFF-UPPER-END
.endc
.end
